* NGSPICE file created from /home/rb/work/labs/week0_inverter/magic/inverter_rbv1.ext - technology: sky130A

.subckt x/home/rb/work/labs/week0_inverter/magic/inverter_rbv1 A Y v+ 0
X0 Y A v+ v+ sky130_fd_pr__pfet_01v8 ad=4.5e+11p pd=2.9e+06u as=4.5e+11p ps=2.9e+06u w=1e+06u l=150000u
X1 Y A 0 0 sky130_fd_pr__nfet_01v8 ad=4.5e+11p pd=2.9e+06u as=4.5e+11p ps=2.9e+06u w=1e+06u l=150000u
.ends

