* NGSPICE file created from inverter_min_cell_space.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_XGS3BL a_n73_n100# a_15_n100# w_n211_n319# a_n33_n197#
X0 a_15_n100# a_n33_n197# a_n73_n100# w_n211_n319# sky130_fd_pr__pfet_01v8 ad=2.9e+11p pd=2.58e+06u as=2.9e+11p ps=2.58e+06u w=1e+06u l=150000u
.ends

.subckt sky130_fd_pr__nfet_01v8_648S5X a_n73_n100# a_n33_n188# a_15_n100# a_n175_n274#
X0 a_15_n100# a_n33_n188# a_n73_n100# a_n175_n274# sky130_fd_pr__nfet_01v8 ad=2.9e+11p pd=2.58e+06u as=2.9e+11p ps=2.58e+06u w=1e+06u l=150000u
.ends

.subckt inverter_min_cell_space A B vdd vss
XXM1 vdd B w_222_640# A sky130_fd_pr__pfet_01v8_XGS3BL
XXM2 vss A B VSUBS sky130_fd_pr__nfet_01v8_648S5X
.ends

